US04670193
n-Decylphosphonic acid
To a solution of n-decylphosphonous acid (1 g, 0.0048 mole) in acetone (10 ml) and water (10 ml) was added a solution of sodium hydroxide (0.19 gm, 0.0047 mole) in water (5 ml) until a pH of about 7 was reached. A solution of KMnO4 (0.46 gm, 0.0029 mole) in water (5 ml) was added solwly to the vigorously stirred solution of phosphonous acid at 20-25° C. After the addition (5 minutes), the reaction mixture was stirred for minutes at ambient temperature and acidified with concentrated HCl acid until a pH of 1 was reached. Saturated sodium bisulfite solution was added to the reaction mixture thereby resulting in formation of a precipitate.

reactant | n-decylphosphonous acid | 0.0048 mole, 1 g | C(CCCCCCCCC)P(O)O | C10H23O2P
reactant | sodium hydroxide | 0.0047 mole, 0.19 gm | [OH-].[Na+]
reactant | KMnO4 | 0.0029 mole, 0.46 gm | [O-][Mn](=O)(=O)=O.[K+]
reactant | phosphonous acid | P(O)O | H3O2P
reactant | HCl | Cl | ClH
reactant | sodium bisulfite | S([O-])(O)=O.[Na+]
solvent | acetone | 10 ml | CC(=O)C | C3H6O
solvent | water | 10 ml | O | H2O
solvent | water | 5 ml | O | H2O
solvent | water | 5 ml | O | H2O
product | n-Decylphosphonic acid | C(CCCCCCCCC)P(O)(O)=O | C10H23O3P
